US04021564
To a solution of 32.1 g (0.125 mole) of 4-(m-trifluoromethylbenzoyl)piperidine in 75 ml of benzene and 21.2 g (0.2 mole) of Na2CO3, was added dropwise a solution of ten g (0.127 mole) of acetyl chloride in 75 ml of benzene. The mixture was refluxed for 2 hours. The mixture was filtered and the filtrate was concentrated under vacuum giving crude 1-acetyl-4-(m-trifluoromethylbenzoyl)piperidine. Yield 37.3 grams.

reactant | 4-(m-trifluoromethylbenzoyl)piperidine | 0.125 mole, 32.1 g | FC(C=1C=C(C(=O)C2CCNCC2)C=CC1)(F)F | C13H14F3NO
reactant | Na2CO3 | 0.2 mole, 21.2 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | acetyl chloride | 0.127 mole | C(C)(=O)Cl | C2H3ClO
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 75 ml | C1=CC=CC=C1 | C6H6
product | 1-acetyl-4-(m-trifluoromethylbenzoyl)piperidine | C(C)(=O)N1CCC(CC1)C(C1=CC(=CC=C1)C(F)(F)F)=O | C15H16F3NO2
